US07662771B2
Add a solution of potassium hydroxide (1.8 g, 32 mmol) in water (70 mL) to a solution of 7-(5-phenyl-4H-[1,3,4]triazol-3-yl)heptanoic acid ethyl ester (4.9 g, 16 mmol) in THF (50 mL) and methanol (50 mL) at room temperature under nitrogen and heat the mixture at reflux for 3 hours. Remove the solvent under reduced pressure, dilute the residue with water (200 mL) and wash with ethyl acetate (200 mL). Adjust the pH of the aqueous layer to 3 with concentrated HCl and extract with ethyl acetate (3×200 mL). Wash the combined organic extracts with brine (200 mL), dry over sodium sulfate and remove the solvent under reduced pressure to afford 7-(5-phenyl-4H-[1,3,4]triazol-3-yl)heptanoic acid (4.4 g, 99%). APCI mass spectrum m/z 273 [C15H19N3O2]−.

reactant | potassium hydroxide | 32 mmol, 1.8 g | [OH-].[K+]
reactant | 7-(5-phenyl-4H-[1,3,4]triazol-3-yl)heptanoic acid ethyl ester | 16 mmol, 4.9 g | C(C)OC(CCCCCCN1CN=C(N1)C1=CC=CC=C1)=O | C17H25N3O2
solvent | water | 70 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 7-(5-phenyl-4H-[1,3,4]triazol-3-yl)heptanoic acid | 4.4 g, 99% | C1(=CC=CC=C1)C=1NN(CN1)CCCCCCC(=O)O | C15H21N3O2
